US08530665B2
5-(tert-Butyldimethylsilyloxy)-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole
Cool a solution of 5-(tert-butyldimethylsilyloxy)-3-iodo-1H-indazole (387.00 g, 1.08 mol) in DCM (2.50 L) and THF (1.00 L) to 10° C. in a 10 L jacketed reactor vessel. To the resulting mixture add methanesulfonic acid (14.0 mL, 216.02 mmol), followed by 3,4-dihydro-2H-pyran (296 mL, 3.24 mol) over 0.5 hours, observing a slight exotherm. Stir the mixture at RT for 3 hours. Cool the reaction to 10° C. and quench with saturated aqueous sodium bicarbonate (2 L). Dilute the mixture with water (2 L) and extract the aqueous layer with DCM (2 L). Wash the combined organic extracts with water (2 L) and brine. Dry the organic mixture over anhydrous sodium sulfate, filter and concentrate in vacuo. Elute the residue through a silica gel pad with eluent (0 to 10% EA/hexanes) to give the title compound. Yield: 150 g (31%). MS (ES) m/z 459 [M+1]+.

reactant | 5-(tert-butyldimethylsilyloxy)-3-iodo-1H-indazole | 1.08 mol, 387.00 g | [Si](C)(C)(C(C)(C)C)OC=1C=C2C(=NNC2=CC1)I | C13H19IN2OSi
reactant | methanesulfonic acid | 216.02 mmol, 14.0 mL | CS(=O)(=O)O | CH4O3S
reactant | 3,4-dihydro-2H-pyran | 3.24 mol, 296 mL | O1CCCC=C1 | C5H8O
solvent | DCM | 2.50 L | C(Cl)Cl | CH2Cl2
solvent | THF | 1.00 L | C1CCOC1 | C4H8O
product | 5-(tert-Butyldimethylsilyloxy)-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | [Si](C)(C)(C(C)(C)C)OC=1C=C2C(=NN(C2=CC1)C1OCCCC1)I | C18H27IN2O2Si
